US05675014
A 2-quart (1.89 liter) glass reactor was charged with 1400 ml of mixed xylenes, 142.8 g (0.60 mole) of 3-mercaptopropyltriethoxysilane, 216 g (0.60 mole) of 92 percent pure 2,2'-dibenzothiazyl disulfide with stirring. Within a few minutes, a mild exotherm to about 30° C. was noted and a clear amber solution formed. The reaction was stirred for 12 hours and a thick precipitate of mercaptobenzothiazole had formed and was removed by filtration. The xylenes were stripped under 29 inches of Hg vacuum, wherein the liquid product mixture was decanted from additional mercaptobenzothiazole. The combined dried mercaptobenzothiazole weighed 195.4 g (1.17 moles). The liquid product mixture weighed 165.4 g and is composed of 70 percent 2-benzothiazyl-(3-triethoxysilyl)propyl disulfide and 15 percent bis(3-triethoxysilyl)propyl disulfide with the balance being mercaptobenzothiazole with a trace of 2,2'-dibenzothiazyl disulfide.

reactant | 3-mercaptopropyltriethoxysilane | 0.60 mole, 142.8 g | SCCC[Si](OCC)(OCC)OCC | C9H22O3SSi
reactant | 2,2'-dibenzothiazyl disulfide | 0.60 mole, 216 g | C1=CC=C2C(=C1)N=C(S2)SSC3=NC4=CC=CC=C4S3 | C14H8N2S4
product | mercaptobenzothiazole | SC=1SC2=C(N1)C=CC=C2 | C7H5NS2
